US05059597
a) Ethyl 2-(2,3,4,5,6-pentafluorobenzoyl)-3-(2,4-difluorophenylamino)-acrylate
44.3 g of 2,4-difluoroaniline are added dropwise to a solution of 115 g of ethyl 3-ethoxy-2-(2,3,4,5,6-pentafluorobenzoyl)-acrylate in 380 ml of ethanol, while cooling with ice and stirring. The mixture is stirred at room temperature for 1 hour, 380 ml of water are added, while cooling with ice, and the precipitate is filtered off with suction, washed with ethanol/H2O (1:1) and dried. 135.4 g of the title compound of melting point 97°-99° C. are obtained.

reactant | 2,4-difluoroaniline | 44.3 g | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | ethyl 3-ethoxy-2-(2,3,4,5,6-pentafluorobenzoyl)-acrylate | 115 g | C(C)OC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1F)F)F)F)F)=O | C14H11F5O4
reactant | water | 380 ml | O | H2O
solvent | ethanol | 380 ml | C(C)O | C2H6O
product | Ethyl 2-(2,3,4,5,6-pentafluorobenzoyl)-3-(2,4-difluorophenylamino)-acrylate | 135.4 g | FC1=C(C(=O)C(C(=O)OCC)=CNC2=C(C=C(C=C2)F)F)C(=C(C(=C1F)F)F)F | C18H10F7NO3
